US06881746B2
Step 7, 2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester:
4-({Indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoic acid (0.44 g, 0.86 mmol) was dissolved in DMF (10 mL) and 1-hydroxybenzotriazole (0.18 g, 1.29 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.25 g, 1.29 mmol) were added and the resulting mixture was stirred at room temperature for 1.5 hours. 3-Amino-2(R)-hydroxypropionic acid methyl ester hydrochloride, (R-isoserine methyl ester hydrochloride), prepared as described in WO 02/00612, (0.16 g, 1.03 mmol) and DIPEA (225 μL, 1.29 mmol) were added and the resulting mixture was stirred at room temperature for 16 hours. Ethyl acetate (100 mL) was added and the mixture was washed with water (2×80 mL). The organic phase was dried (MgSO4) and concentrated in vacuo. The residue (0.35 g) was purified by column chromatography on silica gel eluting with a mixture of ethyl acetate and heptane (1:1). This afforded 0.10 g (19%) of 2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester.

reactant | 4-({Indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoic acid | 0.86 mmol, 0.44 g | C1CCC2=CC(=CC=C12)N(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)CC1=CC=C(C(=O)O)C=C1 | C27H21F3N2O3S
reactant | 1-hydroxybenzotriazole | 1.29 mmol, 0.18 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.29 mmol, 0.25 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-Amino-2(R)-hydroxypropionic acid methyl ester hydrochloride | Cl.COC([C@@H](CN)O)=O
reactant | DIPEA | 1.29 mmol, 225 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C=1C=C2CCCC2=CC1)=O)O)=O | C31H28F3N3O5S
